US06235731B1
2) Synthesis of 1-(4-aminobutan-1-yl)-4-phenylpiperidine
To a solution of 10.38 g (28.64 mM) of 4-(4-phenylpiperidin-1-yl)butan-1-ylphthalimide in ethanol (160 ml) was added 4.2 ml (86.58 mM) of hydrazine monohydrate at room temperature and the mixture was refluxed for 1.5 hours. The white solid that formed was filtered off and the solvent was distilled off under reduced pressure. The residue was diluted with aqueous solution of sodium hydroxide and extracted with chloroform. The organic layer was washed with saturated aqueous solution of sodium chloride and dried over MgSO4. The solvent was then distilled off under reduced pressure to provide the title compound.

reactant | 4-(4-phenylpiperidin-1-yl)butan-1-ylphthalimide | 28.64 mM, 10.38 g | C1(=CC=CC=C1)C1CCN(CC1)CCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C23H26N2O2
reactant | hydrazine monohydrate | 86.58 mM, 4.2 ml | O.NN
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | 1-(4-aminobutan-1-yl)-4-phenylpiperidine | NCCCCN1CCC(CC1)C1=CC=CC=C1 | C15H24N2
